US07923456B2
Step 3: 6-Cyano-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester
A degassed suspension of 6-chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester (7.8 g, 21.2 mmol), zinc (II) cyanide (1.84 g, 15.6 mmol), and Pd(PPh3)4 (2.43 g, 2.12 mmol) in DMF (40 mL) was subjected to microwave irradiation at 150° C. for 15 minutes. The reaction mixture was filtered through Celite® and the filtrate diluted with ethyl acetate. The organic phase was washed twice with water and once with brine, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was triturated with diethyl ether and pentane, and then dried under vacuum to afford the title compound as a yellow solid (6.9 g, 91%). LCMS (method B): RT=4.99 min, [M+H]+=362.

reactant | 6-chloro-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 21.2 mmol, 7.8 g | COC(C1=C(N=C(C(=C1)F)Cl)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C16H17ClF2N2O2Si
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | zinc (II) cyanide | 15.6 mmol, 1.84 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 2.12 mmol, 2.43 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Cyano-5-fluoro-2-(2-fluoro-4-trimethylsilanyl-phenylamino)-nicotinic acid methyl ester | 6.9 g, 91% | COC(C1=C(N=C(C(=C1)F)C#N)NC1=C(C=C(C=C1)[Si](C)(C)C)F)=O | C17H17F2N3O2Si
